US09169259B2
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (100 mg, 0.3 mmol), 3,4-dimethoxyphenylboronic acid (82 mg, 0.45 mmol), Pd2(dba)3 (0.018 g, 0.03 mmol), X-phos (0.029 g, 0.06 mmol) and Na2CO3 (0.096 g, 0.9 mmol) in dioxane (3 mL) and water (3 mL) was heated to 100° C. for 15 h in a sealed tube under N2 atmosphere then concentrated in vacuo. The residue was purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 20% acetonitrile/80% water (0.1% TFA, v/v) initially, proceeding to 50% acetonitrile/50% water (0.1% TFA, v/v) in a linear fashion over 9 min) to afford 6-(3,4-dimethoxyphenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (18 mg, 14%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 10.19 (s, 1H), 8.93 (s, 1H), 8.40 (s, 1H), 8.08 (s, 1H), 7.50-7.48 (m, 1H), 7.11 (d, 1H, J=8.4 Hz), 6.66 (d, 1H, J=7.2 Hz), 6.12 (d, 1H, J=7.8 Hz), 4.22 (brs, 1H), 3.85 (s, 6H), 3.56-3.37 (m, 3H), 2.07-1.97 (m, 2H), 1.74-1.70 (m, 1H), 1.11 (d, 3H, J=6.3 Hz). LC-MS: [M+H]+, 431, tR=1.769 min, HPLC: 98.38% at 214 nm, 99.04% at 254 nm, tR=7.213 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.3 mmol, 100 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | 3,4-dimethoxyphenylboronic acid | 0.45 mmol, 82 mg | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | X-phos | 0.06 mmol, 0.029 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 0.9 mmol, 0.096 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | Pd2(dba)3 | 0.03 mmol, 0.018 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(3,4-dimethoxyphenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 18 mg, 14% | COC=1C=C(C=CC1OC)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C24H26N6O2
